US06806274B1
Methyl 4-amino-5-cyano-2-hydroxybenzoate (J. Chem. Soc. Perkin I. 1979, 677; 4 g) was added to stirred concentrated sulphuric acid (6 ml) and the mixture was heated to 80° C. for 30 minutes. The mixture was cooled to ambient temperature and poured onto crushed ice. The resultant solid was filtered off, washed well with water and dried to give methyl 4-amino-5-carbamoyl-2-hydroxybenzoate (2.8 g); NMR Spectrum: (DMSOd6) 3.83 (s, 3H), 6.1 (s, 1H), 6.75 (br m, 2H), 8.08 (s, 1H).

reactant | Methyl 4-amino-5-cyano-2-hydroxybenzoate | 4 g | NC1=CC(=C(C(=O)OC)C=C1C#N)O | C9H8N2O3
reactant | sulphuric acid | 6 ml | S(O)(O)(=O)=O | H2O4S
product | methyl 4-amino-5-carbamoyl-2-hydroxybenzoate | 2.8 g | NC1=CC(=C(C(=O)OC)C=C1C(N)=O)O | C9H10N2O4
